US07612114B2
5-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-one
To dichloromethane (2 ml) was added oxalyl chloride (0.22 ml) under a nitrogen atmosphere, the solution was cooled at −78° C., a solution of dimethylsulfoxide (245 mg) in dichloromethane (2 ml) was added dropwise thereto over 10 minutes, and then solution was stirred for 45 minutes. A solution of 5-{4-methoxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-ol (552 mg) in dichloromethane (4 ml) was added dropwise thereto over 25 minutes, the solution was stirred for 40 minutes, then triethylamine (0.85 ml) was added dropwise thereto followed by stirring for 20 minutes while warming from −78° C. to room temperature. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. Obtained by purifying the residue by NH silica gel column chromatography (hexane-ethyl acetate system), to a solution of the resulting 5-{4-methoxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-one (118 mg) in methanesulfonic acid (3 ml) was added DL-methionine (110 mg), the solution was stirred for 5 hours at 80° C., then water was added thereto, the solution was stirred, and neutralized with aqueous ammonia. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (ethyl acetate-methanol system) to provide the title compound (42 mg).

reactant | oxalyl chloride | 0.22 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 245 mg | CS(=O)C | C2H6OS
reactant | 5-{4-methoxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-ol | 552 mg | COC1=CC(=C(C=C1)C=1C=C2CCC(C2=CC1)O)NC1=CC=C(C=C1)OCCN1CCCCC1 | C29H34N2O3
reactant | triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 5-{4-Hydroxy-2-[4-(2-piperidin-1-ylethoxy)phenylamino]phenyl}indan-1-one | 42 mg | OC1=CC(=C(C=C1)C=1C=C2CCC(C2=CC1)=O)NC1=CC=C(C=C1)OCCN1CCCCC1 | C28H30N2O3
